US06110903
A solution of 1.0 mmol 2-thienyl lithium in THF was treated with 1.0 mmol diethyl chlorophosphate at -78° C. for 1 h. Extraction and chromatography gave diethyl 2-thiophenephosphonate as a clear oil.

reactant | 2-thienyl lithium | 1.0 mmol | S1C(=CC=C1)[Li]
reactant | diethyl chlorophosphate | 1.0 mmol | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | THF | C1CCOC1 | C4H8O
product | diethyl 2-thiophenephosphonate | S1C(=CC=C1)P(OCC)(=O)OCC | C8H13O3PS
